Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fall
 
Major Surgical or Invasive Procedure:
___ ORIF Left distal radius and ulna fracture 
 
History of Present Illness:
Ms. ___ is a ___ with PMH of HTN, COPD, dementia, anxiety 
who presents from her long term care facility after a fall.  
 
At baseline, per staff and son-in-law report, patient is AAOx1, 
difficult to monitor as she is difficult to re-direct and often 
anxiety. On the morning of presentation, the staff heard yelling 
from the patient's room. They ran in to evaluate her and found 
the patient attempting to get up from the floor by her bed. She 
said that she was trying to go to the bathroom and was not using 
her walker. She was complaining of pain in her hand, which 
looked visibly dislocated at the time of the fall. Unclear if 
the pt sustained headstrike as fall unwitness, unknown if LOC. 
The patient's VS were WNL after fall. She was given 5mg 
oxycodone and transferred to ___ ED for further management.  
 
Of note, patient hard of hearing and hearing aids were left at 
her facility upon transfer.  
 
In the ED, initial vitals: 97.3 60 144/70 18 92% RA  
 - Exam notable for: left wrist deformity, PERRLA  
 - Labs notable for: WBC 13.6, Hgb 10.2, UA w/lg leuks, pos nit  

 - Imaging notable for: Wrist xray w/acute comminuted fx of 
distal radius with posterior and radial angulation of fx 
fragment, associated fx of distal portion of the ulna and ulnar 
styloid. Elbow x-ray normal, shoulder xray normal, CT C-spine w/ 
no acute fx but extensive multilevel degenerative changes, CT 
Head w/o acute changes, pelvic xray negative, CXR negative  
 - Patient given: morphine 2mg IV x4, Haldol 2mg IV x3, fentanyl 
25mcg, ceftriaxone 1g IV x1, IV NS 500cc  
 - Consults: trauma surgery rec admission to medicine for 
syncope w/u will perform teriatry survey in 24 hrs; Ortho Hand: 
communiuted fx with overlying skin tear re-splinted in the ED, 
NPO, add on for OR  
 - Vitals prior to transfer: 98.8 80 139/82 18 97% RA  
 
On arrival to the floor, pt is yelling in pain, unable to answer 
questions.  
 
Past Medical History:
HTN
COPD
anxiety
dementia
hard of hearing
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
=============
ADMISSION
=============
 Vitals: 98.5 PO 96 / 70 98 20 92 RA  
 General: yelling in pain  
 HEENT: Sclera anicteric, MMM  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 CV: RRR, normal S1 S2, no murmurs, rubs, gallops  
 Abdomen: soft, non-tender, non-distended, bowel sounds present  

 Ext: WWP, no edema; left arm with splint to her elbow  
 Skin: no rash visualized  
 Neuro: moving all extremities spontaneously  

===========
DISCHARGE
===========
Vitals:  96.8, 138/61, 65, 20, 93% RA 
General:  Early in the AM she was resting in the hall. Later, 
with son at bedside, she was sitting up calmly, eating.
HEENT: Sclera anicteric, MMM  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: RRR, normal S1 S2, no murmurs, rubs, gallops  
Abdomen: soft, non-tender, non-distended
Ext: WWP, no edema; left arm with splint to her elbow. Distal 
fingers appear bruised, but are warm. 
Neuro: moving all extremities spontaneously  
 
Pertinent Results:
=================
ADMISSION LABS
=================
___ 05:00AM BLOOD WBC-13.6* RBC-3.26* Hgb-10.3* Hct-30.9* 
MCV-95 MCH-31.6 MCHC-33.3 RDW-16.4* RDWSD-55.7* Plt ___
___ 05:00AM BLOOD Neuts-41.2 ___ Monos-4.9* 
Eos-0.1* Baso-0.4 Im ___ AbsNeut-5.58 AbsLymp-7.19* 
AbsMono-0.67 AbsEos-0.01* AbsBaso-0.05
___ 05:00AM BLOOD ___ PTT-25.2 ___
___ 05:00AM BLOOD Glucose-87 UreaN-33* Creat-1.1 Na-142 
K-4.9 Cl-105 HCO3-23 AnGap-19
___ 07:01AM BLOOD ALT-12 AST-33 AlkPhos-121* TotBili-0.7
___ 05:00AM BLOOD CK-MB-2 cTropnT-<0.01
___ 07:01AM BLOOD CK-MB-7 cTropnT-<0.01
___ 07:01AM BLOOD Calcium-8.7 Phos-4.1 Mg-2.1

============
IMAGING
============
-XRAY WRIST ___  Acute comminuted fracture of the distal radius 
with posterior and radial oriented angulation of the fracture 
fragment.  Associated fractures of the distal portion of the 
ulna and ulnar styloid.  
 
-ELBOW XRAY ___  Normal left elbow x-ray examination.  
 
-SHOULDER XRAY ___  No fracture or dislocation.  
 
-CT-C SPINE ___  No fractures or dislocations. Extensive 
multilevel degenerative changes.  
 
-CT-HEAD ___  No acute intracranial abnormality. Atrophy, 
several old lacunar infarctions and likely chronic small vessel 
ischemia.  
 
-PELVIS XRAY ___ No fracture or dislocation identified on this 
single AP pelvic radiograph.  
 
-WRIST XRAY ___ Post reduction radiographs demonstrate 
persistent mild apex volar angulation of acute comminuted 
fractures of the distal radius, distal ulna and ulnar styloid.  
 
-CXR ___  No definite acute cardiopulmonary process.

-CXR ___
In comparison to the most recent prior radiograph, there is 
little overall 
change.  Right infrahilar opacity is likely simply due to 
rotation, although a developing consolidation cannot be 
excluded.  Small left-sided pleural effusion atelectasis.  
Scoliosis is present. 

===============
MICROBIOLOGY
===============
   URINE CULTURE (Final ___: 
      KLEBSIELLA PNEUMONIAE.    >100,000 CFU/mL. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             KLEBSIELLA PNEUMONIAE
                             |   
AMPICILLIN/SULBACTAM--     8 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------    64 I
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

===============
DISCHARGE LABS
===============
___ 06:00AM BLOOD WBC-16.1* RBC-2.82* Hgb-8.4* Hct-27.2* 
MCV-97 MCH-29.8 MCHC-30.9* RDW-16.8* RDWSD-58.2* Plt ___
___ 06:00AM BLOOD Glucose-110* UreaN-34* Creat-1.0 Na-147* 
K-4.0 Cl-109* HCO3-22 AnGap-20
___ 06:00AM BLOOD Calcium-8.9 Phos-2.4* Mg-2.___ female with PMHx HTN, COPD, and dementia, who is 
presenting s/p fall (unwitnessed), found to have fractures of 
distal radius, distal ulna, and ulnar styloid.
 
===============
ACUTE ISSUES
===============
# LEFT COMMINUTED WRIST FRACTURE: Patient had an unwitnessed 
fall with subsequent fractures of distal radius, distal ulna, 
and ulnar styloid. She was evaluated by hand surgery and had 
ORIF on ___ after discussion with the patient's family. Her 
pain was treated with standing Tylenol, and Oxycodone ___ PRN 
can be used for breakthrough pain.
 
# SYNCOPE: Patient with fall, unknown if mechanical vs. syncope, 
as unwitnessed and patient unable to provide history. No known 
cardiac history other than hypertension, and trops x2 were 
negative. CXR with upper limit of normal heart size. Patient w/o 
evidence of tongue biting, and no h/o urinary/fecal incontinence 
to suggest seizure. No new neurologic deficit to suggest neuro 
etiology, and CT head negative. PE considered, but workup 
deferred due to not good anticoagulation candidate given her 
risk for falls. Possible etiology includes UTI.
 
# HYPOXEMIA: Patient briefly had new oxygen requirement, but was 
able to be weaned to RA prior to discharge. Exam without 
evidence of wheezes, CXR without evidence of pneumonia. PE was 
considered, but patient would likely not be a good 
anticoagulation candidate given her risk for falls.

# URINARY TRACT INFECTION: Patient found to have pansensitive 
Klebsiella. Unclear if dysuria as patient unable to provide 
history, though patient was attempting to go to the bathroom 
before her fall which may be indication of urgency/frequency. 
She was treated with ceftriaxone for three days (___).
 
================
CHRONIC ISSUES
================
# DEMENTIA/ANXIETY: Patient oriented x1 at baseline. Continued 
home mirtazapine and escitalopram. Used Seroquel 12.5 as needed 
for agitation.
 
# HTN: Continued home metoprolol

====================
TRANSITIONAL ISSUES
====================
- Needs Hand Surgery follow-up with ___ NP in ___ 
days after discharge. Call ___ to arrange this.
- Please continue the splint and dressing on the patient's Left 
Upper Extremity until she sees Hand Surgery in the clinic.
- For pain control, recommending 1g PO Tylenol TID, and for 
breakthrough pain to use 2.5-5mg PO Oxycodone as needed.
- Please ensure regular bowel movements and uptitrate bowel 
regimen as needed.  Added senna, Colace.
- Alprazolam was stopped due to possible contributions to falls 
and mental status. Would not recommend resuming until after 
speaking to pt's Psychiatrist
- DNR/DNI confirmed
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ALPRAZolam 0.75 mg PO TID:PRN anxiety 
2. Bisacodyl 5 mg PO BID 
3. Escitalopram Oxalate 20 mg PO DAILY 
4. Mirtazapine 15 mg PO QHS 
5. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
6. Metoprolol Succinate XL 25 mg PO DAILY 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID  
2.  OxyCODONE (Immediate Release) 2.5-5 mg PO Q6H:PRN 
BREAKTHROUGH PAIN 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 6 hours Disp 
#*12 Tablet Refills:*0 
3.  Senna 8.6 mg PO BID  
4.  Acetaminophen 1000 mg PO Q8H  
5.  Bisacodyl 5 mg PO BID  
6.  Escitalopram Oxalate 20 mg PO DAILY  
7.  Metoprolol Succinate XL 25 mg PO DAILY  
8.  Mirtazapine 15 mg PO QHS  
9. HELD- ALPRAZolam 0.75 mg PO TID:PRN anxiety  This medication 
was held. Do not restart ALPRAZolam until speaking with the 
patient's psychiatrist to confirm this is OK to continue using

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Fall
UTI
Left sided fractures of radius, ulna, and ulnar styloid

Secondary/chronic:
Dementia
COPD
Hypertension

 
Discharge Condition:
Activity Status: Out of Bed with assistance to chair or 
wheelchair.
Level of Consciousness: Alert and interactive.
Mental Status: Confused - always.

 
Discharge Instructions:
Ms. ___,

It was a pleasure caring for you at ___. You were admitted to 
our hospital because of a fall.  You were treated with 
antibiotics for a urinary infection.  You were also found to 
have fractures in your left hand, and underwent surgery to 
repair this.

You will be discharged back to ___ for continued care. 
Please let us know if you have any questions.

Your ___ Team
 
Followup Instructions:
___